US04219657
(A) 3-(3-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester
In a 3-l. three-necked flask, provided with a condenser, nitrogen inlet, dropping funnel and stirrer were placed 23.8 g. of 3-chlorothiophenol and a solution of 10.8 g. of 85% potassium hydroxide in 300 ml. of ethanol. The solution was brought to reflux, and a solution of 43 g. of 3-bromo-4-oxocyclohexaneacetic acid ethyl ester in 250 ml. of ethanol was added over a period of one hour. After the addition, the solution was stirred at reflux for one hour, cooled to room temperature and filtered to remove the potassium bromide. After removal of the ethanol in vacuo on the steam bath, 150 ml. of water was added to the residue, the product extracted three times with 100 ml. of ether, and the ether extract was dried over anhydrous magnesium sulfate. After removal of the ether from a steam bath at atmospheric pressure, the residue was distilled in vacuo. The yield of 3-(3-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester was 12.2 g.; b.p. 195°-225°/2 mm.

reactant | 3-chlorothiophenol | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-bromo-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)Br)=O | C10H15BrO3
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)SC1=CC(=CC=C1)Cl)=O | C16H19ClO3S
